US05663334
a) α-(p-Toluenesulfonyl)-4-fluorobenzylformamide
To a stirred solution of 4-fluorobenzaldehyde (124 g, 979 mmoles) in acetonitrile (620 mL, 5 volumes) and toluene (620 mL, 5 volumes) was added formamide (110 g, 2.45 moles, 2.5 equiv.) followed by chlorotrimethylsilane (119 g, 1.07 moles, 1.1 equiv.). The reaction was heated at 50° C. under nitrogen for 5 hours. To the resulting white slurry was added p-toluenesulfinic acid (230 g, 1.47 moles, 1.5 equiv.) and the reaction was heated at 50° C. for an additional 5 hours then Cooled to ambient temperature. Methanol (250 mL) and t-butyl methyl ether (620 mL). were added. After 15 minutes the reaction was poured into water (3 L) pre-cooled to 0° C. After stirring for 30 minutes at 0° C., the product was collected by suction filtration and rinsed with t-butyl methyl ether (250 mL). The product, a white, crystalline solid, was dried to a constant weight at 40° C./<1 mm Hg to afford 270 g (879 mmoles) of desired product (90% yield). 1H NMR (300 MHz, CD3CN) δ 7.99 (1H, s), 7.92 (1H, m), 7.71 (2H, d, J=8.3 Hz), 7.49 (2H, dd, J=5.3, 8.8 Hz), 7.39 (2H, d, J=8.1 Hz), 7.16 (2H, t, J=8.8 Hz), 6.31 (1H, d, J=10.6 Hz), 2.42 (3H, s).

reactant | 4-fluorobenzaldehyde | 979 mmoles, 124 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | formamide | 2.45 moles, 110 g, 2.5 equiv. | C(=O)N | CH3NO
reactant | chlorotrimethylsilane | 1.07 moles, 119 g, 1.1 equiv. | Cl[Si](C)(C)C | C3H9ClSi
reactant | p-toluenesulfinic acid | 1.47 moles, 230 g, 1.5 equiv. | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
solvent | acetonitrile | 620 mL | C(C)#N | C2H3N
solvent | toluene | 620 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 L | O | H2O
solvent | t-butyl methyl ether | 620 mL | COC(C)(C)C | C5H12O
solvent | Methanol | 250 mL | CO | CH4O
product | α-(p-Toluenesulfonyl)-4-fluorobenzylformamide | 879 mmoles, 270 g, 90% yield | C1(=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=C1)F)NC=O)C | C15H14FNO3S
